US09233946B2
5-(1,3-Oxazol-5-yl)-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting with 5-(1,3-oxazol-5-yl)thiophene-2-sulfonyl chloride (13.7 mg, 0.055 mmol) and 5-(3-amino-phenyl)tetrazole (8 mg, 0.05 mmol) yielding 9.7 mg (52%) of the title compound. MS (ESI+) calcd for C14H10N6O3S2 374.02558, found 374.02547.

reactant | 5-(1,3-oxazol-5-yl)thiophene-2-sulfonyl chloride | 0.055 mmol, 13.7 mg | O1C=NC=C1C1=CC=C(S1)S(=O)(=O)Cl | C7H4ClNO3S2
reactant | 5-(3-amino-phenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 5-(1,3-Oxazol-5-yl)-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide | 9.7 mg, 52% | O1C=NC=C1C1=CC=C(S1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C14H10N6O3S2
